US04625032
2.04 g of methyl 3-amino-2-(indol-3-yl)propionate hydrochloride are dissolved in 60 ml of methanol. 0.83 g of 35% formalin is added thereto, and the mixture is stirred at room temperature for 18 hours. After the reaction, ether is added to the mixture and crystalline precipitates are collected by filtration and dried, whereby 2.04 g of methyl (4RS)-1,2,3,4-tetrahydro-β-carboline-4-carboxylate hydrochloride are obtained as colorless needles. Yield: 95%

reactant | methyl 3-amino-2-(indol-3-yl)propionate hydrochloride | 2.04 g | Cl.NCC(C(=O)OC)C1=CNC2=CC=CC=C12
reactant | formalin | 0.83 g | C=O | CH2O
reactant | ether | CCOCC | C4H10O
solvent | methanol | 60 ml | CO | CH4O
product | methyl (4RS)-1,2,3,4-tetrahydro-β-carboline-4-carboxylate hydrochloride | 2.04 g, Yield: 95% | Cl.C1NCC(C=2C3=CC=CC=C3NC12)C(=O)OC | InChI=1S/C13H14N2O2.ClH/c1-17-13(16)9-6-14-7-11-12(9)8-4-2-3-5-10(8)15-11;/h2-5,9,14-15H,6-7H2,1H3;1H
